US08633173B2
189 b) To a cooled solution of 2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenylamine (840.0 mg, 3.126 mmol) and N,N-diisopropylethylamine (2.8 mL, 16 mmol) in 1,2-dichloroethane (10 mL) in a ice/water bath at 5° C. was added dropwise methanesulfonyl chloride (0.64 mL, 8.2 mmol). The mixture was stirred 1 hour at 5° C. then at room temperature overnight. 0.1N hydrochloric acid (50 mL) was added to reaction mixture, stirred for 20 minutes then extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water (50 mL) and saturated aqueous sodium chloride (50 mL), dried over magnesium sulfate, filtered and evaporated to a tan solid (1.34 g). To a suspension of the tan solid (1.34 g) from in tetrahydrofuran (10 mL) was added 1.0 M of tetra-n-butylammonium fluoride in tetrahydrofuran (12.50 mL, 12.50 mmol). The mixture was stirred at room temperature for 18 hours. The volatiles were evaporated to yield a viscous oil. Hydrochloric acid (2N, 30 mL) was added to viscous oil and stirred then was extracted with ethyl acetate (3×50 mL). The combined organic layer were dried over magnesium sulfate, filtered and evaporated. The residue was purified via chromatography (silica gel column 40 g 20%→100% ethyl acetate:hexane). N-[2-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenyl]-methanesulfonamide was isolated as a tan solid (0.90 g, 83%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.50 (d, J=6.7 Hz, 1H), 7.93 (br s, 1H), 7.75 (d, J=8.4 Hz, 1H), 7.71 (d, J=7.3 Hz, 1H), 7.57 (d, J=7.8 Hz, 1H), 7.44 (t, J=7.9 Hz, 1H), 7.19 (t, J=7.8 Hz, 1H), 7.11 (t, J=7.1 Hz, 1H), 3.17 (s, 3H). MS=347, 349 (MH)+.

reactant | 2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenylamine | 3.126 mmol, 840.0 mg | ClC1=NN2C(C(=CC=C2)C#CC2=C(C=CC=C2)N)=N1 | C14H9ClN4
reactant | N,N-diisopropylethylamine | 16 mmol, 2.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 8.2 mmol, 0.64 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.1N, 50 mL | Cl | ClH
reactant | tetra-n-butylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 12.50 mmol, 12.50 mL | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 2N, 30 mL | Cl | ClH
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | N-[2-(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylethynyl)-phenyl]-methanesulfonamide | ClC1=NN2C(C(=CC=C2)C#CC2=C(C=CC=C2)NS(=O)(=O)C)=N1 | C15H11ClN4O2S
